US08431695B2
Preparation of 1-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-2-morpholin-4-ylethanone
To a stirred solution of 1-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2-morpholin-4-ylethanone (90 mg, 0.27 mmol) and tetrakis(triphenylphosphine)palladium(0) (61 mg, 0.05 mmol), in degassed 1,4-dioxane (1.0 mL) and DMF (2.0 mL) was added 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole (97 mg, 0.29 mmol), K2CO3 (80 mg, 0.58 mmol), and H2O (0.3 mL). The mixture was degassed and heated (100° C.) for 17 h and then cooled to rt. The mixture was partitioned between ethyl acetate (25 mL) and saturated aqueous K2CO3 solution (25 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The residue was purified by preparative HPLC using a gradient elution from 10% to 70% acetonitrile to obtain 20 mg (16%) of the desired product. 1H-NMR (DMSO-d6) 8.57 (s, 1H), 8.13 (s, 1H), 7.82 (d, 1H), 7.65 (s, 1H), 7.39 (s, 1H), 7.36-7.28 (m, 5H), 7.14 (d, 1H), 5.65 (s, 2H), 3.93 (s, 2H), 3.58-3.56 (m, 4H), 2.56-2.53 (m, 4H); LC-MS [M+H]+=468, RT=2.27 min.

reactant | 1-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)-2-morpholin-4-ylethanone | 0.27 mmol, 90 mg | NC1=NC=NN2C1=C(C=C2C(CN2CCOCC2)=O)Br | C12H14BrN5O2
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
reactant | 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole | 0.29 mmol, 97 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)B1OC(C(O1)(C)C)(C)C | C20H23BN2O2
reactant | K2CO3 | 0.58 mmol, 80 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 61 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 0.3 mL | O | H2O
product | 1-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-2-morpholin-4-ylethanone | 20 mg, 16% | NC1=NC=NN2C1=C(C=C2C(CN2CCOCC2)=O)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C26H25N7O2
